US07713996B2
Methyl iodide (0.72 mL, 11.5 mmol, 1.1 equiv.) was added dropwise, over 10 minutes, to a stirred solution of 4-hydroxy-1H-indole-6-carboxylic acid methyl ester (2 g, 10.5 mmol, 1 equiv.) and potassium carbonate (1.3 g, 15.7 mmol, 1.5 equiv.) in acetone (20 mL) at room temperature and the mixture was heated at reflux for 16 hours. The solvent was removed under vacuum, the residue dissolved in ethyl acetate (20 mL) and washed with saturated aqueous solution of NaHCO3 (20 mL) and water (20 mL). The organic layer was dried over Na2SO4 and the solvent removed under vacuum to afford 4-methoxy-1H-indole-6-carboxylic acid methyl ester, 1.1 g (49% yield). LC @215 nm; Rt 1.23: 91%, m/z (ES+): 206 (M+H+.); δH (400 MHz; MeOD) 7.74 (1H, s), 7.15 (1H, m), 7.03 (1H, d), 6.46 (1H, m), 3.86 (3H, s), 3.80 (3H, s).

reactant | Methyl iodide | 11.5 mmol, 0.72 mL, 1.1 equiv. | CI | CH3I
reactant | 4-hydroxy-1H-indole-6-carboxylic acid methyl ester | 10.5 mmol, 2 g, 1 equiv. | COC(=O)C1=CC(=C2C=CNC2=C1)O | C10H9NO3
reactant | potassium carbonate | 15.7 mmol, 1.3 g, 1.5 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-methoxy-1H-indole-6-carboxylic acid methyl ester | 49% yield | COC(=O)C1=CC(=C2C=CNC2=C1)OC | C11H11NO3
